US04861892
2,3:5,6-Di-O-isopropylidene-L-gulonolactone (22.89 g, 88.7 mmol) was dissolved in acetic acid/water (7:1, 200 ml) and stirred at 30° C. for 16 h when t.l.c. (ethyl acetate/hexane 1:1) revealed no starting material (Rf 0.5) and one major product (Rf 0.1). The solvent was removed under reduced pressure to give a yellow oil. Trituration with benzene (50 ml) gave a solid which was shaken with ethyl acetate/acetone (1:1, 250 ml). The resulting suspension was filtered and solvents removed under reduced pressure to yield an amorphous yellow solid, which was recrystallized from ethyl acetate to yield 2,3-O-isopropylidene-L-gulonolactone, (14.31 g, 79%) as a white crystalline solid, m.p. 139°-141° C., [α]D20 +76.2° (C, 1 in acetone).

reactant | 2,3:5,6-Di-O-isopropylidene-L-gulonolactone | 88.7 mmol, 22.89 g | CC1(OCC(O1)C2C3C(C(=O)O2)OC(O3)(C)C)C | C12H18O6
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | ethyl acetate acetone | 250 ml | C(C)(=O)OCC.CC(=O)C
solvent | acetic acid water | 200 ml | C(C)(=O)O.O
product | 2,3-O-isopropylidene-L-gulonolactone | 14.31 g, 79% | CC1(OC2C(O1)C(=O)OC2C(CO)O)C | C9H14O6
